US09260427B2
To a stirred solution of (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate INT-8 (591 mg, 0.95 mmol) in EA (25 ml) was added Pd/C (101 mg, 0.09 mmol) and the suspension degassed with H2. The mixture was stirred vigorously under an atmosphere of H2 overnight then filtered through celite and the filtrate was concentrated to give 405 mg (83%) of (S)-tert-butyl 2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate INT-9. LCMS-ESI (m/z) calculated for C30H39N3O3: 489.3. found: 490.2 [M+H]+, tR=2.35 min (Method 8).

reactant | (S)-tert-butyl 2-(((benzyloxy)carbonyl)amino)-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C38H45N3O5
solvent | EA | 25 ml | CC(OCC)=O | C4H8O2
catalyst | Pd/C | 0.09 mmol, 101 mg | [Pd] | Pd
product | (S)-tert-butyl 2-amino-3-(4-(5-(4-(heptyloxy)phenyl)pyrimidin-2-yl)phenyl)propanoate | 405 mg, 83% | N[C@H](C(=O)OC(C)(C)C)CC1=CC=C(C=C1)C1=NC=C(C=N1)C1=CC=C(C=C1)OCCCCCCC | C30H39N3O3
